US06890940B2
To an ice-cold solution of N,N′-bis(t-butoxy-carbonyl)-2-hydroxy-N,N′-dimethyl-1,3-propanediamine (87.0 mg, 0.27 mmol) in tetrahydrofuran (4.0 mL) were added benzyl bromide (230.0 mg, 1.35 mmol) and a 50% dispersion of sodium hydride in mineral oil (35.0 mg, 0.81 mmol). The reaction mixture was stirred at room temperature for 15 hours and concentrated under reduced pressure. Water was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to yield 2-benzyloxy-N,N′-bis(t-butoxycarbonyl)-N,N′-dimethyl-1,3-propanediamine, obtained as a colorless oil (54.0 mg, yield: 49%).

reactant | N,N′-bis(t-butoxy-carbonyl)-2-hydroxy-N,N′-dimethyl-1,3-propanediamine | 0.27 mmol, 87.0 mg | C(C)(C)(C)OC(=O)N(CC(CN(C)C(=O)OC(C)(C)C)O)C | C15H30N2O5
reactant | benzyl bromide | 1.35 mmol, 230.0 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
product | 2-benzyloxy-N,N′-bis(t-butoxycarbonyl)-N,N′-dimethyl-1,3-propanediamine | C(C1=CC=CC=C1)OC(CN(C)C(=O)OC(C)(C)C)CN(C)C(=O)OC(C)(C)C | C22H36N2O5
